US08487093B2
Step 8: Allyl (4R,6S)-3-(benzyloxy)-2-oxo-1,3-diazabicyclo[2.2.1]heptane-6-carboxylate
Hydrochloric acid (4.2 M solution in dioxane, 16 mL, 70.4 mmol) was added to 2-allyl 1-tert-butyl (2S,4R)-4-{(benzyloxy)[(trichloromethoxy)carbonyl]amino}-pyrrolidine-1,2-dicarboxylate (80 mg, 1.49 mmol). The resulting mixture was stirred at room temperature overnight then the solvent was removed under vacuum. Dichloromethane (82 mL) was added to the residue followed by triethylamine (0.62 mL, 4.45 mmol). The resulting mixture was stirred at room temperature overnight then the solvent was removed under vacuum. The residue was chromatographed on silica gel (ISCO chromatography system) using a gradient from hexane for 2 minutes to 7:3 hexane:ethyl acetate over 6 minutes, hold for 3 minutes and go to 100% EtOAc over 8 minutes to afford the title compound as a clear oil.

reactant | Hydrochloric acid | 70.4 mmol, 4.2 M, 16 mL | Cl | ClH
reactant | 2-allyl 1-tert-butyl (2S,4R)-4-{(benzyloxy)[(trichloromethoxy)carbonyl]amino}-pyrrolidine-1,2-dicarboxylate | 1.49 mmol, 80 mg | C(C1=CC=CC=C1)ON([C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OCC=C)C(=O)OC(Cl)(Cl)Cl | C22H27Cl3N2O7
reactant | triethylamine | 4.45 mmol, 0.62 mL | C(C)N(CC)CC | C6H15N
product | Allyl (4R,6S)-3-(benzyloxy)-2-oxo-1,3-diazabicyclo[2.2.1]heptane-6-carboxylate | C(C1=CC=CC=C1)ON1C(N2[C@@H](C[C@@H]1C2)C(=O)OCC=C)=O | C16H18N2O4
